US08222246B2
c) 6-[3-(4-Chloro-phenyl)-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
To a suspension of sodium hydride (2.64 g, 60.5 mmol) in THF (100 mL) was added a solution of [3-(4-chloro-phenyl)-5-([E]-styryl)-isoxazol-4-yl]-methanol (17.2 g, 55.0 mmol) in THF (185 mL) at 0° C. The reaction mixture was stirred for 60 min at room temperature. A solution of methyl 6-chloronicotinate (10.6 g, 60.5 mmol) in THF (185 mL) was added at 0° C. The mixture was stirred at room temperature for 2 h and the product was extracted with ethyl acetate/aqueous ammonium chloride and ethyl acetate/brine. Chromatography (silica, ethyl acetate:heptane 2:8 to 7:3) afforded the title compound (15.6 g, 64%) as a white solid. MS: m/e (%)=446 (0.7, M+), 309 (47), 294 (28), 240 (26), 131 (100), 103 (51).

reactant | sodium hydride | 60.5 mmol, 2.64 g | [H-].[Na+]
reactant | [3-(4-chloro-phenyl)-5-([E]-styryl)-isoxazol-4-yl]-methanol | 55.0 mmol, 17.2 g | ClC1=CC=C(C=C1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C18H14ClNO2
reactant | methyl 6-chloronicotinate | 60.5 mmol, 10.6 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 185 mL | C1CCOC1 | C4H8O
solvent | THF | 185 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Chloro-phenyl)-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 15.6 g, 64% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1\C=C\C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O | C25H19ClN2O4
